US07834034B2
6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester.
To a slurry of 6-(carboxy-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester (400 mg, 1.42 mmol) in DCM (10 mL) was added oxalyl chloride (0.148 mL, 1.70 mmol) and 2 drops of DMF. After 20 min, the resultant solution was added to a solution of NH4OH (0.9 mL, 7.08 mmol) in DCM (5 mL) dropwise. After 1 h, the solvent was removed in vacuo and the solid was triturated with MeOH and H2O. The white solid was filtered and used without further purification. 1H NMR (DMSO-d6) δ 8.20 (s, 1H), 8.11 (s, 1H), 8.04 (d, J=8.2 Hz, 1H), 7.91 (br s, 1H), 7.62 (br d, J=2.4 Hz, 1H), 7.51 (d, J=8.2 Hz, 1H), 5.94 (d, J=45.7 Hz, 1H), 4.33 (q, J=7.2 Hz, 2H), 1.31 (t, J=7.2 Hz, 3H). cal'd 282 (MH+), exp 282 (MH+).

reactant | 6-(carboxy-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 1.42 mmol, 400 mg | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(=O)O | C13H11FO4S
reactant | oxalyl chloride | 1.70 mmol, 0.148 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 7.08 mmol, 0.9 mL | [NH4+].[OH-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(N)=O | C13H12FNO3S
